US05981541
1-(2'-Nitro-benzylidene)-6,7-dimethoxy-2-tetralone (12d).
Prepared from 6,7-dimethoxy-2-tetralone and 2-nitrobenzaldehyde; mp 63-64° C.; IR (Nujol): 1712, 1540; 1H NMR: δ2.69 (2H, t), 3.01 (2H t), 3.25 (3H, s), 3.88 (3H, s), 6.26 (1H, s), 6.72 (1H, s), 7.25-7.26 (1H, m), 7.44-7.50 (2H, m), 7.87 (1H, s), 8.12-8.17 (1H, m); 13C NMR: δ28.0, 37.9, 55.7, 56.3, 108.6, 111.3, 112.5, 124.2, 124.9, 125.4, 129.3, 130.1, 131.8, 133.5, 133.9, 134.7, 147.5, 149.6, 200.7.

reactant | 6,7-dimethoxy-2-tetralone | COC=1C=C2CCC(CC2=CC1OC)=O | C12H14O3
reactant | 2-nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
product | 1-(2'-Nitro-benzylidene)-6,7-dimethoxy-2-tetralone | [N+](=O)([O-])C1=C(C=C2C(CCC3=CC(=C(C=C23)OC)OC)=O)C=CC=C1 | C19H17NO5
